US03939184
118 parts of δ,δ-dimethyl-acetyl-oxo-sulfonium methylide is heated under reflux together with 800 parts of methacrylonitrile and 800 parts of ethanol until evolution of dimethyl sulfide ceases. The low-boiling constituents are distilled off under subatmospheric pressure and an oily residue is obtained which by infrared spectroscopy can be shown to contain a keto group, a nitrile group and an ether goup. Pure 2,6-dicyano-4-ethoxy-4-acetylheptane is obtained chromatographically on aluminum oxide as a colorless oil.

reactant | methacrylonitrile | C(C(=C)C)#N | C4H5N
reactant | ethanol | C(C)O | C2H6O
reactant | dimethyl sulfide | CSC | C2H6S
reactant | ether | CCOCC | C4H10O
product | 2,6-dicyano-4-ethoxy-4-acetylheptane | C(#N)C(C)CC(CC(C)C#N)(C(C)=O)OCC | C13H20N2O2
